US05057614
A solution of 100 mg of 3-[1-(3-aminopropyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione acetate, containing an extra equivalent of acetic acid, in 10 ml of dimethyl sulphoxide (DMSO) was treated with 35 mg of sodium bicarbonate and 36 mg of 2-chloro-3-nitropyridine. The mixture was heated at 60° C. for 1 hour and at 100° C. for 2 hours. The solution was allowed to cool, water was added and the precipitate was filtered off and chromatographed on silica gel with 1% to 5% methanol in dichloromethane. The product was purified further by crystallization from hexane/ethyl acetate to give 60 mg of 3-(1-methyl-3-indolyl)-4-[1-[3-(3-nitro-2-pyridylamino)propyl]-3-indolyl]-1H-pyrrole-2,5-dione, m.p. 218°-220° C.

reactant | 3-[1-(3-aminopropyl)-3-indolyl]-4-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione acetate | 100 mg | C(C)(=O)O.NCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 35 mg | C([O-])(O)=O.[Na+]
reactant | 2-chloro-3-nitropyridine | 36 mg | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(1-methyl-3-indolyl)-4-[1-[3-(3-nitro-2-pyridylamino)propyl]-3-indolyl]-1H-pyrrole-2,5-dione | 60 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)CCCNC1=NC=CC=C1[N+](=O)[O-])=O)=O | C29H24N6O4
